US08084466B2
1-[3-(4-Methyl-piperazin-1-yl )-propyl]-5-[5-methyl-4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-1H-indole
To a solution of 4-(3-{5-[5-methyl-4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-indol-1-yl}-propyl)-piperazine-1-carboxylic acid tert-butyl ester (91 mg, 0.16 mmol) in formic acid (2 mL) was added 4 M HCl (0.5 mL). The mixture was stirred for 30 min. The mixture was concentrated and the residue was partitioned between CHCl3 (2×) and 1 M NaOH (5 mL). The combined organic layers were dried and concentrated to give a crude product (52 mg). To a solution of this crude material in dichloroethane (3 mL) was added acetic acid (1 drop) and formaldehyde (37% in water; 0.04 mL, 0.60 mmol) followed by Na(OAc)3BH (127 mg, 0.60 mmol). The resulting mixture was stirred for 2 h before neutralizing with satd. aq. NaHCO3 and extracting with 10% isopropanol in CHCl3 (2×10 mL). The combined organic extracts were dried and concentrated, and purified by FCC to afford 32 mg (42%) of the title compound.

reactant | 4-(3-{5-[5-methyl-4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-indol-1-yl}-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.16 mmol, 91 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN1C=CC2=CC(=CC=C12)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C | C31H36F3N5O2
reactant | HCl | 4 M, 0.5 mL | Cl | ClH
reactant | formaldehyde | 0.60 mmol, 0.04 mL | C=O | CH2O
reactant | Na(OAc)3BH | 0.60 mmol, 127 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | formic acid | 2 mL | C(=O)O | CH2O2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 1-[3-(4-Methyl-piperazin-1-yl )-propyl]-5-[5-methyl-4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-1H-indole | 32 mg, 42% | CN1CCN(CC1)CCCN1C=CC2=CC(=CC=C12)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C | C27H30F3N5
